### PR TITLE
[Merged by Bors] - feat: port Analysis.Calculus.Inverse

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/Inverse.lean [hunk 1]
```diff
@@ -0,0 +1,799 @@
...
+has an invertible strict derivative `f'` at `a`, then it is locally invertible,
+and the inverse function has derivative `f' ⁻¹`.
+
+We define `has_strict_deriv_at.to_local_homeomorph` that repacks a function `f`
+with a `hf : HasStrictFDerivAt f f' a`, `f' : E ≃L[𝕜] F`, into a `LocalHomeomorph`.
+The `to_fun` of this `LocalHomeomorph` is `defeq` to `f`, so one can apply theorems
+about `LocalHomeomorph` to `hf.to_local_homeomorph f`, and get statements about `f`.
+
+Then we define `HasStrictFDerivAt.localInverse` to be the `inv_fun` of this `LocalHomeomorph`,
+and prove two versions of the inverse function theorem:
```
Comment (dupuisf) [inline Mathlib/Analysis/Calculus/Inverse.lean:27]:
```suggestion
We define `HasStrictDerivAt.toLocalHomeomorph` that repacks a function `f`
with a `hf : HasStrictFDerivAt f f' a`, `f' : E ≃L[𝕜] F`, into a `LocalHomeomorph`.
The `toFun` of this `LocalHomeomorph` is defeq to `f`, so one can apply theorems
about `LocalHomeomorph` to `hf.toLocalHomeomorph f`, and get statements about `f`.

Then we define `HasStrictFDerivAt.localInverse` to be the `invFun` of this `LocalHomeomorph`,
and prove two versions of the inverse function theorem:
```

File: Mathlib/Analysis/Calculus/Inverse.lean [hunk 2]
```diff
@@ -0,0 +1,799 @@
...
+
+* `HasStrictFDerivAt.to_localInverse`: if `f` has an invertible derivative `f'` at `a` in the
+  strict sense (`hf`), then `hf.local_inverse f f' a` has derivative `f'.symm` at `f a` in the
+  strict sense;
```
Comment (dupuisf) [inline Mathlib/Analysis/Calculus/Inverse.lean:31]:
```suggestion
* `HasStrictFDerivAt.to_localInverse`: if `f` has an invertible derivative `f'` at `a` in the
  strict sense (`hf`), then `hf.localInverse f f' a` has derivative `f'.symm` at `f a` in the
  strict sense;
```

File: Mathlib/Analysis/Calculus/Inverse.lean [hunk 3]
```diff
@@ -0,0 +1,799 @@
...
+      have hr : ∀ᶠ r : ℝ in atTop, 0 ≤ r := eventually_ge_atTop 0
+      refine' hr.mono fun r hr => Subset.trans _ (image_subset_range f (closedBall 0 r))
+      refine' hf.surjOn_closedBall_of_nonlinearRightInverse f'.toNonlinearRightInverse hr _
+      exact subset_univ _
+    refine' ((tendsto_id.const_mul_atTop hc').frequently hp.frequently).mono _
+    exact fun R h y hy => h hy
+#align approximates_linear_on.surjective ApproximatesLinearOn.surjective
+
+/-- A map approximating a linear equivalence on a set defines a local equivalence on this set.
+Should not be used outside of this file, because it is superseded by `to_local_homeomorph` below.
```
Comment (dupuisf) [inline Mathlib/Analysis/Calculus/Inverse.lean:402]:
```suggestion
Should not be used outside of this file, because it is superseded by `toLocalHomeomorph` below.
```

File: Mathlib/Analysis/Calculus/Inverse.lean [hunk 4]
```diff
@@ -0,0 +1,799 @@
...
+#align cont_diff_at.local_inverse ContDiffAt.localInverse
+
+theorem localInverse_apply_image {n : ℕ∞} (hf : ContDiffAt 𝕂 n f a)
+    (hf' : HasFDerivAt f (f' : E' →L[𝕂] F') a) (hn : 1 ≤ n) : hf.localInverse hf' hn (f a) = a :=
+  (hf.hasStrictFDerivAt' hf' hn).localInverse_apply_image
+#align cont_diff_at.local_inverse_apply_image ContDiffAt.localInverse_apply_image
+
+/-- Given a `ContDiff` function over `𝕂` (which is `ℝ` or `ℂ`) with an invertible derivative
+at `a`, the inverse function (produced by `cont_diff.to_local_homeomorph`) is
+also `ContDiff`. -/
```
Comment (dupuisf) [inline Mathlib/Analysis/Calculus/Inverse.lean:787]:
```suggestion
at `a`, the inverse function (produced by `ContDiff.toLocalHomeomorph`) is
also `ContDiff`. -/
```

**Review by dupuisf — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Analysis/Calculus/Inverse.lean [hunk 5]
```diff
@@ -0,0 +1,799 @@
...
+In the one-dimensional case we reformulate these theorems in terms of `HasStrictDerivAt` and
+`f'⁻¹`.
+
+We also reformulate the theorems in terms of `ContDiff`, to give that `C^k` (respectively,
+smooth) inputs give `C^k` (smooth) inverses.  These versions require that continuous
+differentiability implies strict differentiability; this is false over a general field, true over
+`ℝ` or `ℂ` and implemented here assuming `IsROrC 𝕂`.
+
+Some related theorems, providing the derivative and higher regularity assuming that we already know
+the inverse function, are formulated in the `Analysis/Calculus/FDeriv` and `Analysis/Calculus/Deriv` folders, and in `ContDiff.lean`.
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/Inverse.lean:46]:
```suggestion
the inverse function, are formulated in the `Analysis/Calculus/FDeriv` and `Analysis/Calculus/Deriv`
folders, and in `ContDiff.lean`.
```

**Comment by urkud** [comment]
bors merge
